US04511504
To a solution of BOC-L-Leucine (5.26 g, 0.021M) in CH2Cl2 (40 ml) and DMF (10 ml) stirred at 0° was added N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (4 g, 0.021M). After 15 min., N-methyl morpholine (0.021M) was added followed by, after a further 10 min. at 0°, a solution of O-methyl-L-tyrosine N-Methylamide (4.3 g, 0.019M) in CH2Cl2. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was then concentrated in vacuo, and the residue in CH2Cl2, washed in turn with H2O (200 ml), saturated aq. NaHCO3 (200 ml), dilute HCl (1M; 200 ml), saturated aq. NaHCO3 (200 ml) and water (150 ml), dried (Na2SO4) and evaporated in vacuo to a solid. Recrystallisation from ethyl acetate/hexane gave N-(Tertiarybutoxycarbonyl)-L-leucyl-O-methyl-L-tyrosine N-methylamide as a white crystalline solid, (4.5 g), m.p. 159-161; (Found: C,62.65; H,8.33; N,9.96. C22H35N3O5 requires C,62.69; H,8.37; N9.97%). νmax (CDCl3) 3400, 1700 and 1662 cm-1 ; (δ(CDCl3) 0.91 (6H,dd,J=7 and 14 Hz, CH(CH3)2); 1.37 (9H,s, OC(CH3)3); 1.47-1.7 (3H,m,CH2CH(CH3)2); 2.71 (3H,d,J=4.7 Hz, NHCH3), 2.98 and 3.14 (each 1H, each m, CH2C6H4); 3.78 (3H,s,OCH3); 4.0 and 4.61 (each 1H, each m, 2xα--CH); 4.86, (1H,br s,OCONH); 6.40 and 6.55 (each 1H, each br s, CONHx2); 6.82 (2H,d,J=8.4 Hz, Tyr H-3 and H-5); 7.08 (2H,d,J=8.4 Hz, Tyr H-2and H-6); m/e 422 (70%, [m+1]+), 365 (70%, [m-58]+).

reactant | BOC-L-Leucine | 0.021M, 5.26 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.021M, 4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methyl morpholine | 0.021M | CN1CCOCC1 | C5H11NO
reactant | O-methyl-L-tyrosine N-Methylamide | 0.019M, 4.3 g | CNC([C@@H](N)CC1=CC=C(C=C1)OC)=O | C11H16N2O2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(Tertiarybutoxycarbonyl)-L-leucyl-O-methyl-L-tyrosine N-methylamide | CNC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C22H35N3O5
